data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"BrC1=C2C=CC=CC2=C(C2=CC=C(C=CC3=CC=CC=C3)C=C2)C2=CC=CC=C12.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])[O-].OB(O)C1=CC=C(C=C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[Na+].[Na+].[Pd:2]|(1, 2)",29,6,reaction_9,USPTO_suzuki,train
"BrC1=C2C=CC=CC2=C(C2=CC=C(C=CC3=CC=CC=C3)C=C2)C2=CC=CC=C21.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])[O-].OB(O)C1=CC=C(C=C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[Na+].[Na+]|(1, 2)",29,5,reaction_9,USPTO_suzuki,train
"C1=CC=C(C=CC2=CC=C(C3=C4C=CC=CC4=[C:2]([Br:3])C4=CC=CC=C43)C=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:1][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])[O-].OB(O)C1=CC=C(C=C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[Na+].[Na+]|(1, 2);((2, 3), 1)",29,4,reaction_9,USPTO_suzuki,train
"C1=CC=C(C=CC2=CC=C(C3=C4C=CC=CC4=[C]([Pd-2:3]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[Br:1])C4=CC=CC=C43)C=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])[O-:2].OB(O)C1=CC=C(C=C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[Na+:4].[Na+]|(2, 3);((3, 1), 4)",29,3,reaction_9,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])[O][Pd-2:2]([C]1=C2C=CC=CC2=C(C2=CC=C(C=CC3=CC=CC=C3)C=C2)C2=CC=CC=C21)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[B:3](O)[C:1]1=CC=C(C=C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[Na+].[Na][Br]|(2, 1);((1, 3), 2)",29,2,reaction_9,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])[O:1][Pd-2:2]([C]1=CC=C(C=C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)([C]1=C2C=CC=CC2=C(C2=CC=C(C=CC3=CC=CC=C3)C=C2)C2=CC=CC=C21)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[B:3](O)O.[Na+].[Na][Br]|((2, 1), 3);((3, 2), 2)",29,1,reaction_9,USPTO_suzuki,train
"C1=CC=C(C=CC2=CC=C(C3=C4C=CC=CC4=[C:2]([Pd-2:3]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[C:1]4=CC=C(C=C(C5=CC=CC=C5)C5=CC=CC=C5)C=C4)C4=CC=CC=C43)C=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])OB(O)O.[Na+].[Na][Br]|((3, 1), 2);((2, 3), 3)",29,0,reaction_9,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC1=C(Br)C=C(C=O)C2=C1CCC2.COC1=CC=C(B(O)O)C=C1.O.O=C([O-])[O-].[K+].[K+].[Pd:1]|(2, 1)",23,6,reaction_2,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC1=C(Br)C=C(C=O)C2=C1CCC2.COC1=CC=C(B(O)O)C=C1.O.O=C([O-])[O-].[K+].[K+]|(2, 1)",23,5,reaction_2,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC1=CC=C(B(O)O)C=C1.COC1=[C:1]([Br:2])C=C(C=O)C2=C1CCC2.O.O=C([O-])[O-].[K+].[K+]|(3, 1);((1, 2), 3)",23,4,reaction_2,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC1=CC=C(B(O)O)C=C1.COC1=[C]([Pd-2:3]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[Br:4])C=C(C=O)C2=C1CCC2.O.O=C([O-])[O-:1].[K+:2].[K+]|(1, 3);((3, 4), 2)",23,3,reaction_2,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC1=CC=[C:1]([B:2](O)O)C=C1.COC1=[C]([Pd-2:3]([O]C(=O)[O-])([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=O)C2=C1CCC2.O.[K+].[K][Br]|(3, 1);((1, 2), 3)",23,2,reaction_2,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC1=CC=[C]([Pd-2:2]([C]2=CC(C=O)=C3CCCC3=C2OC)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([B:1](O)O)[O:3]C(=O)[O-])C=C1.O.[K+].[K][Br]|((2, 3), 1);((1, 2), 2)",23,1,reaction_2,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC1=CC=[C:1]([Pd-2:2]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:3]2=CC(C=O)=C3CCCC3=C2OC)C=C1.O.O=C([O-])OB(O)O.[K+].[K][Br]|((2, 3), 1);((1, 2), 2)",23,0,reaction_2,USPTO_suzuki,train
